US06686356B2
Step 6: Preparation of Ethyl 8-[benzyl(methyl)amino]-4-hydroxy-6-(4-morpholinylmethyl)-3-quinolinecarboxylate
Diethyl 2-{[2-[benzyl(methyl)amino]-4-(4-morpholinylmethyl)anilino]-methylene}malonate (3.7 g, 7.7 mmol) is stirred in a mixture of phenyl ether (9 g) and biphenyl (3 g) at 260 ° C. A slow stream of nitrogen is passed through the solution to remove volatile materials produced in the reaction. The reaction is stopped as soon as HPLC shows that conversion of the starting material to product is complete (60 min). After cooling, the reaction mixture is applied in ethyl acetate to a silica gel column which is eluted with ethyl acetate (400 mL) to remove phenyl ether and biphenyl. The column is then eluted with 5-10% methanol/chloroform and the product obtained is recrystallized from ethyl acetate/hexane (3:1, 15 mL) to give 1.70 g of the title compound.

reactant | Diethyl 2-{[2-[benzyl(methyl)amino]-4-(4-morpholinylmethyl)anilino]-methylene}malonate | 7.7 mmol, 3.7 g | C(C1=CC=CC=C1)N(C1=C(NC=C(C(=O)OCC)C(=O)OCC)C=CC(=C1)CN1CCOCC1)C | C27H35N3O5
solvent | phenyl ether | 9 g | C1(=CC=CC=C1)OC1=CC=CC=C1 | C12H10O
solvent | biphenyl | 3 g | C1(=CC=CC=C1)C1=CC=CC=C1 | C12H10
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | Ethyl 8-[benzyl(methyl)amino]-4-hydroxy-6-(4-morpholinylmethyl)-3-quinolinecarboxylate | 1.70 g | C(C1=CC=CC=C1)N(C=1C=C(C=C2C(=C(C=NC12)C(=O)OCC)O)CN1CCOCC1)C | C25H29N3O4
